US05362879
NaBH3CN (11.55 g, 0.18 mol) was added to a stirred solution of 3-aminophenol (10.00 g, 0.09 mol) and 2-ketoglutaric acid (17.41 g, 0.12 mol) in MeOH (350 mL). After about 17 hours, 2-ketoglutaric acid (1.00 g, 7 mmol) was added and the mixture stirred for about 1 hour. cH2SO4 was added until pH=1 and the mixture heated to reflux. cH2SO4 (3 mL) was added after about 3 hours and then again about 1 hour later. The mixture was heated at reflux overnight, the solvent evaporated and the residue diluted with water and 10% Na2CO3 solution. The mixture was extracted with CH2Cl2, the extracts dried over Na2SO4 and concentrated to leave an oil that crystallized. This was dissolved in CH2Cl 2 containing a small amount of MeOH and diluted with hexanes to give methyl 1-(3-hydroxyphenyl)-5-oxo-2-pyrrolidinecarboxylate (18.75 g, 87%). An analytical sample was prepared by recrystallizing a 1 g sample from a mixture of CH2Cl2 and hexanes to give 0.98 g of pure material, mp 125-127° C. IR (KBr) 3200 (OH), 1730 (CO2Me), 1660 (CONH) cm-1. 1H NMR (CDCl3) δ2.16 (1H, m, CH.CH2CO), 2.40-2.70 (2H, m, CH2CO), 2.80 (1H, m, CH.CH2CO), 3.72 (3H, s, CO2CH3), 4.75 (1H, dd, J=6 Hz, J'=3 Hz, CHCO2CH3), 6.54 (1H, dd, J=8 Hz, J'=2 Hz, aromatic H), 6.68 (1H, dd, J=8 Hz, J'=2 Hz, aromatic H), 7.15 (1H, t, J=8 Hz, aromatic H meta to OH), 7.73 (1H, t, J=2 Hz, aromatic H ortho to N and OH), 8.35 (1H, bs, OH); 13C NMR (CDCl3) δ22.97, 31.11, 52.73, 61.83, 109.21, 110.78, 113.20, 129.70, 138.58, 157.38, 172.04, 175.47; MS m/z 236 (MH+).

reactant | NaBH3CN | 0.18 mol, 11.55 g | [BH3-]C#N.[Na+]
reactant | 3-aminophenol | 0.09 mol, 10.00 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 2-ketoglutaric acid | 0.12 mol, 17.41 g | O=C(C(=O)O)CCC(=O)O | C5H6O5
solvent | MeOH | 350 mL | CO | CH4O
catalyst | 2-ketoglutaric acid | 7 mmol, 1.00 g | O=C(C(=O)O)CCC(=O)O | C5H6O5
product | methyl 1-(3-hydroxyphenyl)-5-oxo-2-pyrrolidinecarboxylate | 18.75 g, 87% | OC=1C=C(C=CC1)N1C(CCC1=O)C(=O)OC | C12H13NO4
